US04420399
To a stirred mixture of morpholine (43.5 g:0.5 mole) and diethyl phosphite (69 g:0.5 mole) was added aqueous formaldehyde (41 g:0.5 mole) during 60 min. at 50°-60°. After stirring for an additional 1 hr. water was removed in vacuo and the resulting oil distilled. Pure diethyl morpholinomethylphosphonate, 105 g (87%) bp 108°-9°/0.1 mm was obtained.

reactant | morpholine | 0.5 mole, 43.5 g | N1CCOCC1 | C4H9NO
reactant | diethyl phosphite | 0.5 mole, 69 g | P(OCC)(OCC)[O-]
reactant | formaldehyde | 0.5 mole, 41 g | C=O | CH2O
product | diethyl morpholinomethylphosphonate | O1CCN(CC1)CP(OCC)(OCC)=O | C9H20NO4P
